US04929687
A 20% solids copolymer of acrylamide-DADM of molecular weight of 180,000 is prepared by polymerization of 75 wt % of acrylamide and 25 wt % of DADM. 50 parts of the copolymer is diluted with 150 parts of water in the reaction flask. 150 Parts of n-heptane are added and the mixture is stirred and cooled externally to 0° C. 1598 c.c. of chlorine are charged into the reaction mixture in 15 minutes while the temperature of the reaction mixture is kept at 0° C. to 2° C. during the chlorination process by external cooling. The reaction mixture is then poured slowly into 2 liters of ethanol with agitation. The product polymer is precipitated. The precipitate is collected by filtration and dried. It is found by analysis that the product polymer contains 26.2 mole % of N-chloroamide units.

reactant | acrylamide | C(C=C)(=O)N | C3H5NO
reactant | DADM | C=C(C(C(C(=C)O)O)O)O | C6H10O4
reactant | n-heptane | CCCCCCC | C7H16
reactant | chlorine | ClCl | Cl2
solvent | water | O | H2O
solvent | ethanol | 2 liters | C(C)O | C2H6O
product | acrylamide DADM | C(C=C)(=O)N.C=C(C(C(C(=C)O)O)O)O | InChI=1S/C6H10O4.C3H5NO/c1-3(7)5(9)6(10)4(2)8;1-2-3(4)5/h5-10H,1-2H2;2H,1H2,(H2,4,5)
